US07241890B2
To a solution of 6-chloro-8-(2,5-dimethoxybenzyl)-N9-butyl purine (1 mmol) in dioxane was added 28% NH4OH (50 mmol) and the mixture was then heated at 100 C in a seal tube for 48 h. Solvent was removed by azeotrope distillation with toluene. Purification on a silica gel column (see above) gave pure 8-(2,5-dimethoxybenzyl)-9-butyl adenine, 1.1. Rf=0.35 in 5% MeOH in EtOHAc. 1H NMR (DMSO-d6) δ 8.08 (s, 1H), 7.04 (br s, 2H), 6.94 (d, 1H), 6.80 (dd, 1H), 6.66 (d, 1H), 4.14 (s, 2H), 4.04 (t, 2H), 3.72 (s, 3H), 3.63 (s, 3H), 1.52 (m, 2H), 1.22 (m, 2H), 0.82 (t, 3H).

reactant | 6-chloro-8-(2,5-dimethoxybenzyl)-N9-butyl purine | 1 mmol | ClC1=C2N=C(N(C2=NC=N1)CCCC)CC1=C(C=CC(=C1)OC)OC | C18H21ClN4O2
reactant | NH4OH | 50 mmol | [NH4+].[OH-]
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 8-(2,5-dimethoxybenzyl)-9-butyl adenine | COC1=C(CC=2N(C3=NC=NC(=C3N2)N)CCCC)C=C(C=C1)OC | C18H23N5O2
